US06649611B2
(2R, 5S)-2-[4-Chloro-2-(piperazine-1-carbonyl)-phenoxy]-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone
To a solution of (2R, 5S)-4-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester (0.110 g, 0.182 mmol) in dichloroethane (10 ml) was added trifluoroacetic acid (5 ml). The reaction was stirred for two hours at ambient temperature. The reaction was then diluted with dichloromethane and washed with 1N aqueous sodium hydroxide. The organics were dried over magnesium sulfate, filtered and concentrated to give the title compound (0.080 g, 87% yield).

reactant | (2R, 5S)-4-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.182 mmol, 0.110 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C31H40ClFN4O5
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2R, 5S)-2-[4-Chloro-2-(piperazine-1-carbonyl)-phenoxy]-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.080 g, 87% yield | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)C(=O)N1CCNCC1 | C26H32ClFN4O3
